US08975400B2
4-(3,4-difluorophenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorophenol and 4-fluorobenzaldehyde.

reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-(3,4-difluorophenoxy)benzaldehyde | FC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1F | C13H8F2O2
